US09108939B2
C: tert-Butyl 4-(5-amino-1H-indol-1-yl)piperidine-1-carboxylate
tert-Butyl 4-(5-nitro-1H-indol-1-yl)piperidine-1-carboxylate (9.04 mmol, 3.123 g) and 10% palladium on carbon (0.452 mmol, 0.481 g) were combined and stirred under a hydrogen atmosphere at 5 bar at room temperature in ethanol (25 mL) for 1 hour. The reaction mixture was filtered and concentrated at reduced pressure to afford the title compound. (2.506 g). MS (ESI) m/z 316.1 [M+H]+

reactant | tert-Butyl 4-(5-nitro-1H-indol-1-yl)piperidine-1-carboxylate | 9.04 mmol, 3.123 g | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H23N3O4
catalyst | palladium on carbon | 0.452 mmol, 0.481 g | [Pd] | Pd
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | tert-Butyl 4-(5-amino-1H-indol-1-yl)piperidine-1-carboxylate | NC=1C=C2C=CN(C2=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H25N3O2
